US07087789B2
The trifluoromethyl phenyl sulfone/tBuOK trifluoromethylation method can also be applied to other systems. For instance, methyl benzoate can be trifluoromethylated to generate 2,2,2-trifluoroacetophenone in 30% yield at about −50° C. to about −20° C. CF3Cu can be in situ generated with trifluoromethyl phenyl sulfone/tBuOK and copper iodide (CuI), and then further react with iodobenzene at 80° C. for 20 h to give α,α,α-trifluorotoluene in 26% yield.

reactant | trifluoromethyl phenyl sulfone tBuOK | C1(=CC=CC=C1)S(=O)(=O)C(F)(F)F.C(C)(C)(C)O[K]
reactant | methyl benzoate | C(C1=CC=CC=C1)(=O)OC | C8H8O2
reactant | 2,2,2-trifluoroacetophenone | FC(C(=O)C1=CC=CC=C1)(F)F | C8H5F3O
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
catalyst | copper iodide | [Cu](I)I
product | α,α,α-trifluorotoluene | 26% yield | FC(C1=CC=CC=C1)(F)F | C7H5F3
